US08084614B2
A mixture of 5-bromo-2-(3-tert-butoxycarbonyl-propoxy)-4-chloro-benzoic acid 3-tert-butoxycarbonyl-propyl ester (8.2 g, 15.3 mmol) and LiOH (19.1 mL, 4 N, 76.6 mmol) in THF (150 mL) was stirred at rt for 16 hrs. The mixture was acidified by saturated NaHSO4 (50 mL) and extracted with ethyl acetate. The ethyl acetate layer was dried over Na2SO4, filtered and concentrated. The residue was purified via silica gel flash chromatography (eluting with 50% ethyl acetate in hexane), followed by crystallization in hexane/ethyl acetate (10/1) to afford 5-bromo-2-(3-tert-butoxycarbonyl-propoxy)-4-chloro-benzoic acid as white crystals (2.5 g). MS [M−(iso-butene+OH)]+: 320.8; tR=2.38 min. (method 1)

reactant | 5-bromo-2-(3-tert-butoxycarbonyl-propoxy)-4-chloro-benzoic acid 3-tert-butoxycarbonyl-propyl ester | 15.3 mmol, 8.2 g | C(C)(C)(C)OC(=O)CCCOC(C1=C(C=C(C(=C1)Br)Cl)OCCCC(=O)OC(C)(C)C)=O | C23H32BrClO7
reactant | LiOH | 76.6 mmol, 4 N, 19.1 mL | [Li+].[OH-]
reactant | NaHSO4 | 50 mL | OS(=O)(=O)[O-].[Na+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 5-bromo-2-(3-tert-butoxycarbonyl-propoxy)-4-chloro-benzoic acid | 2.5 g | BrC=1C(=CC(=C(C(=O)O)C1)OCCCC(=O)OC(C)(C)C)Cl | C15H18BrClO5
